US04432972
A mixture of phenylphosphonic dichloride (1.15 ml., 8 mmole) and dry dichloromethane (15 ml.) under argon at 25° is treated dropwise with benzyl alcohol (0.83 ml., 1 eq.) and triethylamine (1.1 ml., 1 eq.) in dichloromethane (5 ml.) over a 20 minute period. A slight exotherm is observed. The reaction mixture is then refluxed for 15 minutes, cooled to 0° (ice bath), and L-phenylalanyl-L-leucine, phenylmethyl ester, hydrochloride salt (1 eq.) is added. The heterogeneous mixture is treated dropwise with triethylamine (2.4 ml., 2.1 eq.) in dichloromethane (8 ml.) over a 5 minute period. The ice bath is removed and the reaction mixture is stirred for an additional 1.5 hours. The solids are removed by filtration and the dichloromethane is stripped from the filtrate. The residue is taken up in ethyl acetate and washed with water, saturated sodium bicarbonate, 5% potassium bisulfate, saturated sodium bicarbonate, brine, dried (MgSO4), and evaporated to a residue. The residue is purified chromatographically to give N-[N-[phenylmethoxy(phenyl)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester.

reactant | phenylphosphonic dichloride | 8 mmole, 1.15 ml | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
reactant | benzyl alcohol | 0.83 ml, 1 eq. | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 1.1 ml, 1 eq. | C(C)N(CC)CC | C6H15N
reactant | L-phenylalanyl-L-leucine, phenylmethyl ester, hydrochloride salt | 1 eq. | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1
reactant | triethylamine | 2.4 ml, 2.1 eq. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-[N-[phenylmethoxy(phenyl)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester | C1(=CC=CC=C1)COP(=O)(N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C35H39N2O5P
